US06900216B2
Saturated aqueous sodium hydrogencarbonate solution (100 ml) was added at 0° C. to a stirred suspension of 3-(benzo[b]thiophen-4-yl)-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide (2.38 g) in dichloromethane (50 ml), and the mixture was stirred at ambient temperature for 2 hours. The organic phase was separated, washed with water (50 ml) and saturated aqueous sodium chloride solution (50 ml), dried (Na2SO4), and the solvent was removed in vacuo to give 3-(benzo[b]thiophen-4-yl)-5,6-dihydroimidazo[2,1-b]thiazole (1.45 g) as a yellow solid which was used without further purification.

reactant | sodium hydrogencarbonate | 100 ml | C(O)([O-])=O.[Na+]
reactant | 3-(benzo[b]thiophen-4-yl)-5,6-dihydroimidazo[2,1-b]thiazole hydrobromide | 2.38 g | Br.S1C2=C(C=C1)C(=CC=C2)C=2N1C(SC2)=NCC1
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-(benzo[b]thiophen-4-yl)-5,6-dihydroimidazo[2,1-b]thiazole | 1.45 g | S1C2=C(C=C1)C(=CC=C2)C=2N1C(SC2)=NCC1 | C13H10N2S2
